US06943183B2
Trifluoromethanesulfonic anhydride (0.12 mL, 0.74 mmol) was added to a solution of pyridine (0.14 mL, 1.77 mmol) in dichloromethane (0.5 mL). The resulting mixture was added over 15 min to an ice-cooled solution of 6-(2-hydroxy-1,1-dimethylethoxy)-5-(2-phenylethyl)-3,4-dihydro-1(2H)-naphthalenone (100 mg, 0.30 mmol) in dichloromethane (0.5 mL). The resulting mixture was stirred for 15 min and was then quenched by the addition of water (2 mL). The mixture was diluted with 1 M aqueous hydrochloric acid (10 mL) and extracted with ethyl acetate (3×5 mL). The combined extracts were washed with 1 M aqueous hydrochloric acid (10 mL), saturated aqueous copper sulfate (3×5 mL), and was then dried (brine, Na2SO4) and concentrated. The residue was purified by dry-flash column chromatography (SiO2, 5-40% ethyl acetate-hexane) to give 2-methyl-2-{[5-oxo-1-(2-phenylethyl)-5,6,7,8-tetrahydro-2-naphthalenyl]oxy}propyl trifluoromethanesulfonate as a colorless oil, 125 mg, 90% yield. NMR spectrum was consistent with structure. MS EI: M+• 470.1376 (M+• 470.1375).

reactant | Trifluoromethanesulfonic anhydride | 0.74 mmol, 0.12 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | pyridine | 1.77 mmol, 0.14 mL | N1=CC=CC=C1 | C5H5N
reactant | 6-(2-hydroxy-1,1-dimethylethoxy)-5-(2-phenylethyl)-3,4-dihydro-1(2H)-naphthalenone | 0.30 mmol, 100 mg | OCC(OC=1C(=C2CCCC(C2=CC1)=O)CCC1=CC=CC=C1)(C)C | C22H26O3
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | 2-methyl-2-{[5-oxo-1-(2-phenylethyl)-5,6,7,8-tetrahydro-2-naphthalenyl]oxy}propyl trifluoromethanesulfonate | 90% yield | FC(S(=O)(=O)OCC(C)(OC1=C(C=2CCCC(C2C=C1)=O)CCC1=CC=CC=C1)C)(F)F | C23H25F3O5S
